US08106190B2
4-Chloro-2-[(2,2,6,6-tetramethylpiperidin-4-yl)amino]benzonitrile was dissolved in N-methyl-2-pyrrolidinone, potassium carbonate and iodoethane were added, followed by stirring at 90° C. By post-treating the reaction liquid, 4-chloro-2-[(1-ethyl-2,2,6,6-tetramethylpiperidin-4-yl)amino]benzonitrile was obtained.

reactant | 4-Chloro-2-[(2,2,6,6-tetramethylpiperidin-4-yl)amino]benzonitrile | ClC1=CC(=C(C#N)C=C1)NC1CC(NC(C1)(C)C)(C)C | C16H22ClN3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | ICC | C2H5I
solvent | N-methyl-2-pyrrolidinone | CN1C(CCC1)=O | C5H9NO
product | 4-chloro-2-[(1-ethyl-2,2,6,6-tetramethylpiperidin-4-yl)amino]benzonitrile | ClC1=CC(=C(C#N)C=C1)NC1CC(N(C(C1)(C)C)CC)(C)C | C18H26ClN3
